US07893056B2
A solution of (2S)-2-{[6-{2-[(2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoyl]hydrazino}-5-fluoro-2-(methyloxy)-4-pyrimidinyl]amino}-N,N-dimethylbutanamide (0.036 g, 0.063 mmol), and Pd(C) (0.008 g) in MeOH (10 mL) was run under standard hydrogenation conditions as in General Procedure A, Part C, to provide (2S)-2-{[6-[2-((2R)-3-cyclopentyl-2-{[formyl(hydroxy)amino]methyl}propanoyl)hydrazino]-5-fluoro-2-(methyloxy)-4-pyrimidinyl]amino}-N,N-dimethylbutanamide as an orange solid (0.019 g, 63%). LCMS: (M+H)+=484.4.

reactant | (2S)-2-{[6-{2-[(2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoyl]hydrazino}-5-fluoro-2-(methyloxy)-4-pyrimidinyl]amino}-N,N-dimethylbutanamide | 0.063 mmol, 0.036 g | C1(CCCC1)C[C@@H](C(=O)NNC1=C(C(=NC(=N1)OC)N[C@H](C(=O)N(C)C)CC)F)CN(OCC1=CC=CC=C1)C=O | C28H40FN7O5
solvent | MeOH | 10 mL | CO | CH4O
product | (2S)-2-{[6-[2-((2R)-3-cyclopentyl-2-{[formyl(hydroxy)amino]methyl}propanoyl)hydrazino]-5-fluoro-2-(methyloxy)-4-pyrimidinyl]amino}-N,N-dimethylbutanamide | 0.019 g, 63% | C1(CCCC1)C[C@@H](C(=O)NNC1=C(C(=NC(=N1)OC)N[C@H](C(=O)N(C)C)CC)F)CN(O)C=O | C21H34FN7O5
